US06967216B2
1-Benzyloxycarbonyl-3-cyanomethylpiperidine
1-Benzyloxycarbonyl-3-mesyloxymethylpiperidine (WO 0100207; 8.4 g) was dissolved in DMSO (100 ml) and sodium cyanide (1.6 g) was added. The mixture was heated to 100° C. and stirred continuously under an argon atmosphere for 6 hours. The mixture was cooled and poured into water (200 ml). The product was extracted with EtOAc, washed with ferrous sulphate solution (10% w/w), dried and evaporated in vacuo. TLC (40% EtOAc/petroleum ether (60/80) Rf. 0.54.

reactant | 1-Benzyloxycarbonyl-3-mesyloxymethylpiperidine | 8.4 g | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)COS(=O)(=O)C | C15H21NO5S
reactant | sodium cyanide | 1.6 g | [C-]#N.[Na+]
reactant | water | 200 ml | O | H2O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 1-Benzyloxycarbonyl-3-cyanomethylpiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CC#N | C15H18N2O2
